US04528370
In a manner analogous to that described in example 3A hereinabove, 3-methyl,3-ethyl-5,5-dimethyl-2-morpholone is reduced with LiAlH4 to provide a better than 80% yield of (1-hydroxy-2-methyl-2-propyl)(1-hydroxy-2-methyl-2-butyl)amine which has a b p of 136°-7° C./4 mm Hg.

reactant | 3-methyl,3-ethyl-5,5-dimethyl-2-morpholone | CC1(NC(COC1=O)(C)C)CC | C9H17NO2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | (1-hydroxy-2-methyl-2-propyl)(1-hydroxy-2-methyl-2-butyl)amine | 80% yield | OCC(C)(C)NC(CO)(CC)C | C9H21NO2
